US05475130
A mixture consisting of 3-(tetradecylthio)propionic acid (3.02 g) and thionyl chloride (20 ml) was stirred for 30 minutes at room temperature and then evaporated under a reduced pressure to obtain 3-(tetradecylthio)propionyl chloride. The thus obtained 3-(tetradecylthio)propionyl chloride was dissolved in toluene (5 ml) and added dropwise to a mixture consisting of 2,6-diisopropylaniline (1.77 g), triethylamine (2.1 ml) and toluene (20 ml), followed by 1 hour of stirring at room temperature. The reaction mixture was washed with 3% hydrochloric acid, 10% sodium hydroxide solution and saturated brine successively and then dried on anhydrous magnesium sulfate. After removing the solvent by distillation under a reduced pressure, the resulting residue was subjected to a silica gel column chromatography (developing solvent; ethyl acetate:hexane=1:5) and then to crystallization using isopropyl ether, thereby obtaining the title compound (2.55 g) in the form of colorless needle crystals.

reactant | 3-(tetradecylthio)propionic acid | 3.02 g | C(CCCCCCCCCCCCC)SCCC(=O)O | C17H34O2S
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-(tetradecylthio)propionyl chloride | C(CCCCCCCCCCCCC)SCCC(=O)Cl | C17H33ClOS
